US04490369
7,8-Dimethoxy-2,3-dihydro-1H-3-benzazepine
A boiling suspension of 0.8 gm of lithium aluminium hydride in 100 ml of absolute dioxane was mixed with 2.2 gm (0.01 mol) of 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one, and the mixture was refluxed for 3 hours. Ammonium chloride solution (10%) was added while cooling with ice water, and the precipitate formed thereby was suction-filtered off. The filtrate was evaporated in vacuo to a volume of about 20 ml, and the resulting white precipitate was suction-filtered off and washed with a little dioxane.

reactant | lithium aluminium hydride | 0.8 gm | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 7,8-dimethoxy-1,3-dihydro-2H-3-benzazepin-2-one | 0.01 mol, 2.2 gm | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 7,8-Dimethoxy-2,3-dihydro-1H-3-benzazepine | COC1=CC2=C(CCNC=C2)C=C1OC | C12H15NO2
